US07696223B2
e) [(2-tert-Butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A suspension of 2-tert-butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (103 mg, 0.37 mmol) and glycine (247 mg, 3.3 mmol) in 5.9 mL of 0.5 N NaOMe in methanol was heated to 120° C. for 15 min with microwave irradiation using a CEM Discovery microwave reactor. The resultant mixture was concentrated under reduced pressure and the residue was suspended in ethyl acetate and extracted three times with saturated aqueous sodium bicarbonate solution. The combined aqueous fractions were acidified with conc. HCl and extracted twice with ethyl acetate. The organic fractions were dried over anhydrous sodium sulfate and concentrated to a residue. The crude product was purified by reverse phase chromatography on a C-18 column, eluting the desired product with a gradient of 5-80% acetonitrile in water+0.1% formic acid. The lyophilized material fractions provided 10 mg of white solid. MS (ESI−): m/z 308.1 (M−1).

reactant | 2-tert-butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.37 mmol, 103 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C(C)(C)C)O | C13H16N2O3S
reactant | glycine | 3.3 mmol, 247 mg | NCC(=O)O | C2H5NO2
solvent | NaOMe | 0.5 N, 5.9 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | [(2-tert-Butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 10 mg | C(C)(C)(C)C=1SC2=C(C=NC(=C2O)C(=O)NCC(=O)O)N1 | C13H15N3O4S
